US04855301
(-)-1,2,3,4-Tetrahydro-6-methyl-4-(3-nitrophenyl)-2-thioxo-5-pyrimidinecarboxylic acid, 1-methylethyl ester (2.6 mmol, 884 mg) was dissolved in dry tetrahydrofuran and cooled to 0° C. 4-Methoxybenzyl chloride (1.1 eq, 32.9 mmol, 393 μl) was added dropwise. After the addition was complete, the bath was removed and the reaction stirred at room temperature for two hours. The mixture was then heated at 65° C. for 16 hours. TLC 35:65:acetone:hexane showed an incomplete reaction, so additional 4-methoxybenzyl chloride (1.1 eq, 1.3 mmol, 393 μl) was added to the mixture. After 7 hours at 65° C., the mixture was allowed to come to room temperature and diluted with ether. As the mixture cooled to 0° C., a white solid formed. The solid was collected by suction filtration, washed with ether, and dried to afford 1,4-dihydro-2-[[(4-methoxyphenyl)methyl]thio]-6-methyl-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, 1-methylether ester hydrochloride, 636 mg (49%).

reactant | (-)-1,2,3,4-Tetrahydro-6-methyl-4-(3-nitrophenyl)-2-thioxo-5-pyrimidinecarboxylic acid, 1-methylethyl ester | 2.6 mmol, 884 mg | CC1=C(C(NC(N1)=S)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC(C)C | C15H17N3O4S
reactant | 4-Methoxybenzyl chloride | 32.9 mmol, 393 μl, 1.1 eq | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | 4-methoxybenzyl chloride | 1.3 mmol, 393 μl, 1.1 eq | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 1,4-dihydro-2-[[(4-methoxyphenyl)methyl]thio]-6-methyl-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid | COC1=CC=C(C=C1)CSC=1NC(=C(C(N1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)O)C | C20H19N3O5S
